US06620977B1
(S)-4-Benzyloxy-2-(2-benzyloxyethoxy)-1-trityloxy-butane (51 mg, 0.092 mmol) was dissolved in ethyl acetate (3 ml). To the solution was added 5% Pd—C (5.0 mg) and the mixture was stirred under an atmosphere of hydrogen for 15 hours at 50° C. After filtering off catalyst, the filtrate was condensed in vacuo, and the residue was subjected to silica gel chromatography to give (S)-3-(2-hydoxyethoxy)-4-trityloxybutanol (28 mg, yield 78%).

reactant | (S)-4-Benzyloxy-2-(2-benzyloxyethoxy)-1-trityloxy-butane | 0.092 mmol, 51 mg | C(C1=CC=CC=C1)OCC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCCOCC1=CC=CC=C1 | C39H40O4
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 5.0 mg | [Pd] | Pd
product | (S)-3-(2-hydoxyethoxy)-4-trityloxybutanol | 28 mg, yield 78% | OCCO[C@@H](CCO)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28O4
